US06277877B1
5-Chloro-1H-benzoimidazole-2-carboxylic acid (1-dimethylcarbamoyl-2-phenyl-ethyl)-amide
(S)-2-Amino-N,N-dimethyl-3-phenyl-propionamide hydrochloride (2.0 mmol) and 5-chloro-1H-benzoimidazole-2-carboxylic acid (Crowther et al., J. Chem. Soc. 1949, p.1268, 2.0 mmol) were coupled according to Procedure A and the product purified by chromatography on silica gel eluted with 1:1 ethyl acetate-hexanes (235 mg, 63%): HPLC (60/40) 4.92 min (91%); PBMS 371/373 (MH+, 100%); 1H NMR (CDCl3) δ11.25 (br, 0.6H), 10.9 (br, 0.4H), 8.36 (m, 1H), 7.78 (d, 0.4H, J=7.72 (d, 0.6H, J=8.8 Hz), 7.52 (d, 0.6H, J=2 Hz), 7.41 (d, 0.4H, J=8.4 Hz), 7.35-7.1 (m, 6H), 7.35 (m, 1H), 3.16 (m, 2H), 2.90 (s, 3H), 2.68 (s, ca. 2H), 2.67 (s, ca. 1H).

reactant | (S)-2-Amino-N,N-dimethyl-3-phenyl-propionamide hydrochloride | 2.0 mmol | Cl.N[C@H](C(=O)N(C)C)CC1=CC=CC=C1
reactant | 5-chloro-1H-benzoimidazole-2-carboxylic acid | 2.0 mmol | ClC1=CC2=C(NC(=N2)C(=O)O)C=C1 | C8H5ClN2O2
product | 5-Chloro-1H-benzoimidazole-2-carboxylic acid (1-dimethylcarbamoyl-2-phenyl-ethyl)-amide | CN(C(=O)C(CC1=CC=CC=C1)NC(=O)C1=NC2=C(N1)C=CC(=C2)Cl)C | C19H19ClN4O2
